US05059345
3.0 g (20 millimols) of S-(+)-2-phenylpropionic acid was mixed with 3.3 g (24 millimols) of anhydrous zinc chloride and heated to 110° C. to dissolve the latter in the former. 2.64 g (24 millimols) of resorcinol was added to the solution and further heated to 150° C. over a period of 20 minutes while stirring the reaction mixture. The reaction mixture was then cooled to the room temperature. 10 ml of concentrated hydrochloric acid solution and 50 ml of water was added to the reaction mixture, and the reaction product was extracted for 3 times while using 50 ml of ethyl ether in each extraction operation. The extract in ethyl ether was rinsed with an aqueous solution of NaHCO3 for two times, and then rinsed with water for three times. The extract in ethyl ether was then dried by adding anhydrous Na2SO4. The drying agent was removed by filtration and ethyl ether was removed by distillation to obtain 3.6 g of a crude product. The crude product was refined through silica gel column chromatography while using chloroform as the eluent. As a result, 2.0 g of 3-hydroxy-4-(1-oxo-2-phenylpropyl)phenol was obtained.

reactant | S-(+)-2-phenylpropionic acid | 20 millimols, 3.0 g | C[C@@H](C1=CC=CC=C1)C(=O)O | C9H10O2
reactant | resorcinol | 24 millimols, 2.64 g | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | hydrochloric acid | 10 ml | Cl | ClH
reactant | water | 50 ml | O | H2O
catalyst | zinc chloride | 24 millimols, 3.3 g | [Cl-].[Zn+2].[Cl-]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 3-hydroxy-4-(1-oxo-2-phenylpropyl)phenol | 2.0 g | OC=1C=C(C=CC1C(C(C)C1=CC=CC=C1)=O)O | C15H14O3
